US09353096B2
To a round bottomed flask containing 3.136 g (36 mmol) of morpholine was added 3.362 g (30 mmol) of racemic 1,1,1-trifluoro-2,3-epoxypropane dropwise over 10 min (exothermic). The mixture was stirred at room temperature. After 90 min, the volatiles were removed under reduced pressure to give 5.837 g (98%) of 1,1,1-trifluoro-3-morpholin-4-yl-propan-2-ol as an oil.

reactant | morpholine | 36 mmol, 3.136 g | N1CCOCC1 | C4H9NO
reactant | racemic 1,1,1-trifluoro-2,3-epoxypropane | 30 mmol, 3.362 g | FC(C1CO1)(F)F | C3H3F3O
product | 1,1,1-trifluoro-3-morpholin-4-yl-propan-2-ol | 5.837 g, 98% | FC(C(CN1CCOCC1)O)(F)F | C7H12F3NO2
